US08633313B2
4,6-Dichloro-5-pyrimidinecarbaldehyde oxime (8 g) was dissolved in CHCl3 (40 mL) and treated with SOCl2 (6 mL) for 2 h at rt. The solvent was removed and the residue was dissolved in DCM (5 mL). The resulting solid was filtered and washed with DCM (5 mL). The filtrate was concentrated under reduced pressure and purified by silica gel column chromatography using DCM-hexane (3:1) to give 4,6-dichloro-5-pyrimidinecarbonitrile as a white solid.

reactant | 4,6-Dichloro-5-pyrimidinecarbaldehyde oxime | 8 g | ClC1=NC=NC(=C1C=NO)Cl | C5H3Cl2N3O
reactant | SOCl2 | 6 mL | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 4,6-dichloro-5-pyrimidinecarbonitrile | ClC1=NC=NC(=C1C#N)Cl | C5HCl2N3
